US07098212B2
3-(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-2-nitro-propionic acid ethyl ester
To nitro-acetic acid ethyl ester (0.32 g, 2.39 mmol), sodium bicarbonate (0.10 g, 1.19 mmol) and tetrabutyl ammonium iodide (0.088 g, 0.24 mmol) in dimethyl formamide (5 ml) was added 2-(4-chloro-2-chloromethyl-phenoxy)-1-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-ethanone (0.52 g, 1.19 mmol). After 1 hour of heating at 60° C. the reaction was concentrated and then diluted with methylene chloride. After washing with aqueous saturated sodium bicarbonate and saturated sodium chloride the organic layer was dried over magnesium sulfate, filtered and concentrated in vacuo. Chromatography on silica gel gave the title compound (0.30 g).

reactant | nitro-acetic acid ethyl ester | 2.39 mmol, 0.32 g | C(C)OC(C[N+](=O)[O-])=O | C4H7NO4
reactant | sodium bicarbonate | 1.19 mmol, 0.10 g | C([O-])(O)=O.[Na+]
reactant | 2-(4-chloro-2-chloromethyl-phenoxy)-1-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-ethanone | 1.19 mmol, 0.52 g | ClC1=CC(=C(OCC(=O)N2[C@@H](CN([C@H](C2)C)CC2=CC=C(C=C2)F)C)C=C1)CCl | C22H25Cl2FN2O2
catalyst | tetrabutyl ammonium iodide | 0.24 mmol, 0.088 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dimethyl formamide | 5 ml | CN(C=O)C | C3H7NO
product | 3-(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-2-nitro-propionic acid ethyl ester | 0.30 g | C(C)OC(C(CC1=C(C=CC(=C1)Cl)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C)[N+](=O)[O-])=O | C26H31ClFN3O6
